US06492378B1
1,2-Dimethyl-3,4-dihydroisoquinolinium Iodide
1-Methyl-3,4-dihydroisoquinoline (780 mg) was dissolved in acetone (7 ml) and iodomethane (0.38 ml) added. The solution was allowed to stand overnight at room temperature. The product was obtained as pale yellow crystals (1.4 g).

reactant | 1-Methyl-3,4-dihydroisoquinoline | 780 mg | CC1=NCCC2=CC=CC=C12 | C10H11N
reactant | iodomethane | 0.38 ml | IC | CH3I
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 1,2-Dimethyl-3,4-dihydroisoquinolinium Iodide | 1.4 g | [I-].CC1=[N+](CCC2=CC=CC=C12)C | InChI=1S/C11H14N.HI/c1-9-11-6-4-3-5-10(11)7-8-12(9)2;/h3-6H,7-8H2,1-2H3;1H/q+1;/p-1
